US08119663B2
1-(2,2-Dimethylpropanoyl)-5-(4-methoxyphenyl)piperidine-3-carboxylic acid [racemic cis isomer]
55 ml of dioxane, 28 ml of water and 0.77 g (32.2 mmol) of lithium hydroxide were added to 2.8 g (14.3 mmol) of ethyl 1-(cyclopentylcarbonyl)-5-[4-(methoxy)phenyl]piperidine-3-carboxylate. The mixture was stirred overnight at RT. For work-up, the dioxane was removed under reduced pressure, water was added and the reaction mixture was acidified using aqueous 1 N hydrochloric acid solution. The mixture was extracted with dichloromethane. The organic phase was dried with sodium sulphate and concentrated under reduced pressure. Yield: 2.44 g (95% of theory)

reactant | dioxane | 55 ml | O1CCOCC1 | C4H8O2
reactant | lithium hydroxide | 32.2 mmol, 0.77 g | [OH-].[Li+]
reactant | ethyl 1-(cyclopentylcarbonyl)-5-[4-(methoxy)phenyl]piperidine-3-carboxylate | 14.3 mmol, 2.8 g | C1(CCCC1)C(=O)N1CC(CC(C1)C1=CC=C(C=C1)OC)C(=O)OCC | C21H29NO4
solvent | water | 28 ml | O | H2O
product | 1-(2,2-Dimethylpropanoyl)-5-(4-methoxyphenyl)piperidine-3-carboxylic acid | CC(C(=O)N1CC(CC(C1)C1=CC=C(C=C1)OC)C(=O)O)(C)C | C18H25NO4
